US07112553B1
Acetic anhydride (15.2 ml, 0.16 mol) was added dropwise to a stirred mixture of 4-bromo-2-methylaniline (10.0 g, 0.054 mol) and sodium acetate (2.52 g, 0.056 mol) in toluene (150 ml). Once the addition was complete the mixture was warmed to 85° C. and stirred for 40 minutes. The mixture was cooled to room temperature, diluted with ethyl acetate and washed with water. The organic solution was evaporated in vacuo, a further quantity of toluene was added and then the solvent was evaporated to give 4-bromo-2-methylacetanilide (12.3 g), as a colourless solid.

reactant | Acetic anhydride | 0.16 mol, 15.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-bromo-2-methylaniline | 0.054 mol, 10.0 g | BrC1=CC(=C(N)C=C1)C | C7H8BrN
reactant | sodium acetate | 0.056 mol, 2.52 g | C(C)(=O)[O-].[Na+]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-bromo-2-methylacetanilide | 12.3 g | CC1=C(C=CC(=C1)Br)NC(=O)C | C9H10BrNO
